US05146003
In 10 ml of dried toluene was dissolved 5 mmol of (E)-2-cyclopentadecenone, and the solution was added dropwise to the above solution, followed by allowing the reaction to proceed at -78° C. to -60° C. for 15 hours. Thereafter, the same procedures as in Example 14 were followed to obtain muscone having an optical rotation of +11.8° (at 21° C., c 5.13, MeOH) and an optical purity of 100 %ee in a chemical yield of 90 mol %.

reactant | (E)-2-cyclopentadecenone | 5 mmol | C1(\C=C\CCCCCCCCCCCC1)=O | C15H26O
reactant | MeOH | CO | CH4O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | muscone | CC1CCCCCCCCCCCCC(=O)C1 | C16H30O
